US07745438B2
(2R,5R)-5-[(1S,2S)-2-amino-3-(3-fluoro-5-hydroxy-phenyl)-1-hydroxy-propyl]-2-(2-fluoro-1-fluoromethyl-1-methyl-ethoxy)-morpholine-4-carboxylic acid tert-butyl ester
Beginning with (5R)-5-[(1S,2S)-1-Benzyloxy-3-(3-benzyloxy-5-fluoro-phenyl)-2-dibenzylamino-propyl]-2-hydroxy-morpholine-4-carboxylic acid tert-butyl ester and trifluoromethanesulfonic acid 2-fluoro-1-fluoromethyl-1-methyl-ethyl ester, the desired compound may be prepared essentially as described in Preparation 306.

reactant | (5R)-5-[(1S,2S)-1-Benzyloxy-3-(3-benzyloxy-5-fluoro-phenyl)-2-dibenzylamino-propyl]-2-hydroxy-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)OCC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)O | C46H51FN2O6
reactant | trifluoromethanesulfonic acid 2-fluoro-1-fluoromethyl-1-methyl-ethyl ester | FCC(C)(CF)OS(=O)(=O)C(F)(F)F | C5H7F5O3S
product | (2R,5R)-5-[(1S,2S)-2-amino-3-(3-fluoro-5-hydroxy-phenyl)-1-hydroxy-propyl]-2-(2-fluoro-1-fluoromethyl-1-methyl-ethoxy)-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)O)F)N)O)OC(CF)(C)CF | C22H33F3N2O6
